US20010000513A1
A stirred mixture of (4-cyano-phenyl)boronic acid (0.220 g, 0.00150 mol), 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (0.2715 g, 0.00100 mol), triethylamine (0.418 mL, 0.0030 mol), tri(O-toluyl)phosphine (0.0191 g, 0.0000628 mol) and palladium(II)acetate (0.0067 g, 0.000030 mol) in dry dimethylformamide (4.0 mL) was heated at 105° C. under nitrogen for 2 hours and allowed to cool. For convenience, allowed to stand overnight. The mixture was diluted with diethyl ether, and the resulting suspension was filtered through Celite. The Celite and filtercake were washed with additional diethyl ether then dichloromethane. The filtrate and washings were combined and washed with 0.5 M aqueous hydrochloric acid, water, 3% aqueous ammonium hydroxide, water, and brine. The organics were dried (Na2SO4) and rotary evaporated. The residue was dissolved (chloroform) and chromatographed on silica gel (35 g, 230-400 mesh), eluting with hexanes-acetone (4:1, 30×30 mL) to give 0.172 g of 4-(4′-cyano-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a pale yellow solid; mp 149-151° C.

reactant | (4-cyano-phenyl)boronic acid | 0.00150 mol, 0.220 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.00100 mol, 0.2715 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | triethylamine | 0.0030 mol, 0.418 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium(II)acetate | 0.000030 mol, 0.0067 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4′-cyano-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.172 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H15NO3
